US06949649B2
Using the general method of Example 20 Part A, 1-(4-chlorobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine (1.0 g, 3.30 mmol) was reacted with 2-mercaptopyrimidine (0.59 g, 5.3 mmol) to provide 1.0 g of 2-ethyl-1-[4-(pyrimidin-2-ylthio)butyl]-1H-imidazo[4,5-c]quinolin-4-amine as an off white powder, m.p. 182-185° C.

reactant | 1-(4-chlorobutyl)-2-ethyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.30 mmol, 1.0 g | ClCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CC | C16H19ClN4
reactant | 2-mercaptopyrimidine | 5.3 mmol, 0.59 g | SC1=NC=CC=N1 | C4H4N2S
product | 2-ethyl-1-[4-(pyrimidin-2-ylthio)butyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.0 g | C(C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCSC1=NC=CC=N1 | C20H22N6S
